Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left hand weakness, facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Neurology Resident Stroke Admission Note 

Neurology at bedside for evaluation after code stroke activation
within: 3 minutes

Time/Date the patient was last known well: 26 hours ago, on
___ at 12:30pm

Pre-stroke mRS ___ social history for description): 0

t-PA Administration
 [ ] Yes - Time given:
 [x] No - Reason t-PA was not given/considered: outside of 
window

Endovascular intervention: []Yes [x]No - no large vessel
occlusion and outside of treatment window

CT scans from OSH were reviewed with the Neurology Chief 
Resident
(Dr. ___, specifically NCHCT and CTA Head and Neck.

___ Stroke Scale - Total [3]

 1a. Level of Consciousness - 0
 1b. LOC Questions - 0
 1c. LOC Commands - 0
 2.  Best Gaze - 0
 3.  Visual Fields - 0
 4.  Facial Palsy - 2 for L lower facial weakness
 5a. Motor arm, left - 1 drift 
 5b. Motor arm, right - 0
 6a. Motor leg, left - 0
 6b. Motor leg, right - 0
 7.  Limb Ataxia - 0
 8.  Sensory - 0 
 9.  Language - 0 
 10. Dysarthria - 0
 11. Extinction and Neglect - 0

HPI: 
Ms. ___ is a ___ F w/ HLD, who presents as a transfer
from OSH (floor to ___ ED) for further evaluation of L lower
facial weakness and subtle L hand weakness that developed about
26h prior to presentation. Patient was in her usual state of
health until onset of symptoms on ___ around 12:30pm. She was
standing in front of refrigerator and was noted to be staring.
Her husband called her name to get her attention, she was slow 
to
respond and her speech seemed different than usual, without 
clear
slurring. He walked her to lay down and thought that her gait 
was
unsteady. 911 was called and she was taken to OSH.

On arrival at OSH, she was afebrile, HR 80, BP 151/92, RR 16,
SpO2 97%. NCHCT and CTA H/N were negative (images uploaded to
Lifeimage). Family was told that the hospital does not 
administer
tPA. She was started on aspirin 81mg daily. Neurology
consultation was obtained over the phone. Patient was admitted
for observation and further assessment. ___ and OT were consulted
and recommendation was made for further rehab. Family requested 
a
transfer to an institution with higher level of care. 

Otherwise, patient's labs were notable for normal CBC, BMP, LFT,
lipase. LDL 79. UA was notable for 1+ leukesterase and positive
nitrites, she was started on Bactrim on ___ with first dose in
the morning. 

ROS: On neurologic review of systems, the patient denies
headache, lightheadedness, or confusion. Denies difficulty with
producing or comprehending speech. Denies loss of vision, 
blurred
vision, diplopia, vertigo, tinnitus, hearing difficulty,
dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness,
parasthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.

 
Past Medical History:
Hyperlipidemia 
 
Social History:
___
Family History:
Family history of stroke and MI in father. No known history of 
bleeding or clotting disorders.
 
Physical Exam:
ADMISSION EXAM:
===============
 Vitals:  T98.8:   HR: 70   BP: 138/80   RR: 18  SaO2: 97% RA
 General:  NAD, conversant, ambulatory
 HEENT: NCAT,  no oropharyngeal lesions, neck supple
 ___: RRR, no M/R/G
 Pulmonary: CTAB, no crackles or wheezes
 Abdomen: Soft, NT, ND, +BS, no guarding
 Extremities: Warm, no edema

Neurologic Examination:
 - Mental status: Awake, alert, oriented x 4. Able to relate
history without difficulty. Attentive. Speech is fluent with 
full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias.  No dysarthria - although her
daughter-in-law states that her voice sounds a little different
than typically. Normal prosody. Able to register 3 objects and
recall ___ at 5 minutes. No apraxia. No evidence of hemineglect.
No left-right confusion. Able to follow both midline and
appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. L lower facial weakness. Hearing intact to finger
rub bilaterally.  Palate elevation symmetric. SCM/Trapezius
strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. Drift of the L arm noted. No
tremor or asterixis.

   [___]
 L   5     5    5    5    4+  5   5    5     5   5    5    5
 R   5     5    5    5    ___    5     5   5    5    5  
  
 - Reflexes: 
    [Bic] [Tri] [___] [Quad] [Achilles]
  L  2+    2+     2+      2+       1
  R  2+    2+     2+      2+       1  

Plantar response mute bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Decreased speed of finger tapping and decreased
rapid alternating movements in the L hand.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. 

DISCHARGE EXAM:
===============
VS: Temp: 97.8 (Tm 98.4), BP: 122/78 (109-124/71-82), HR: 88
(77-113), RR: 20 (___), O2 sat: 97% (95-97), O2 delivery: Ra  
Exam
General:  NAD, conversant
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:

Mental status: Awake, alert, oriented. Able to relate history
without difficulty. Attentive. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias.  

Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. Left lower facial weakness with delayed activation.
Hearing intact to finger rub bilaterally.  Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.

Motor:  Normal bulk and tone. No drift this AM. No tremor or
asterixis.

   [___]
 L   5     5    5    5    ___    5     5   5    5    5
 R   5     5    5    5    ___    5     5   5    5    5  
  
Reflexes: 
    [Bic] [Tri] [___] [Quad] [Achilles]
  L  2+    2+     2+      2+       1
  R  2+    2+     2+      2+       1  

Plantar response mute bilaterally 

Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

Coordination: No dysmetria with finger to nose testing
bilaterally. 

Gait: Deferred this AM.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:08PM   ___ PTT-21.2* ___
___ 03:10PM URINE  HOURS-RANDOM
___ 03:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-SM*
___ 03:10PM URINE  RBC-<1 WBC-4 BACTERIA-MOD* YEAST-NONE 
EPI-1
___ 03:10PM URINE  MUCOUS-RARE*
___ 03:01PM   CREAT-0.7
___ 03:01PM   estGFR-Using this
___ 02:55PM   ALT(SGPT)-23 AST(SGOT)-26 ALK PHOS-92 TOT 
BILI-0.8
___ 02:55PM   cTropnT-<0.01
___ 02:55PM   ALBUMIN-4.5
___ 02:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:55PM   WBC-6.7 RBC-4.25 HGB-13.7 HCT-43.1 MCV-101* 
MCH-32.2* MCHC-31.8* RDW-13.1 RDWSD-49.0*
___ 02:55PM   NEUTS-66.1 ___ MONOS-8.1 EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-4.42 AbsLymp-1.63 AbsMono-0.54 
AbsEos-0.05 AbsBaso-0.03
___ 02:55PM   PLT COUNT-200
___ 02:55PM   ___ PTT-UNABLE TO  ___

DISCHARGE LABS:
===============
___ 06:30AM BLOOD WBC-5.2 RBC-3.95 Hgb-12.9 Hct-39.6 
MCV-100* MCH-32.7* MCHC-32.6 RDW-12.9 RDWSD-47.7* Plt ___
___ 06:30AM BLOOD ___ PTT-25.5 ___
___ 06:30AM BLOOD Glucose-102* UreaN-12 Creat-0.8 Na-140 
K-4.2 Cl-108 HCO3-23 AnGap-9*
___ 07:25AM BLOOD ALT-18 AST-16 LD(LDH)-176 CK(CPK)-72 
AlkPhos-80 TotBili-0.8
___ 07:25AM BLOOD GGT-37*
___ 06:30AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.0
___ 07:25AM BLOOD %HbA1c-5.5 eAG-111
___ 07:25AM BLOOD Triglyc-76 HDL-73 CHOL/HD-2.3 LDLcalc-83
___ 07:25AM BLOOD TSH-4.8*
___ 06:18AM BLOOD Free T4-1.2
___ 07:25AM BLOOD CRP-3.3

IMAGING:
========
MRI Head ___:
Subacute infarcts involving the right frontal, temporal and 
parietal lobes and insular cortex.  No hemorrhage. 

CXR: ___:
Cardiomediastinal silhouette is within normal limits.  There are 
no focal 
consolidations, pleural effusion, or pulmonary edema. There are 
no 
pneumothoraces. 

TTE ___:
CONCLUSION: The left atrial volume index is normal. A prominent 
Eustachian valve is present (normal variant). There are delayed 
saline microbubbles in the left heart most c/w no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection fraction is 58 %. 
Left
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is
normal for gender with mildly dilated ascending aorta. The 
aortic arch diameter is normal. There is no evidence for an 
aortic arch coarctation. The aortic valve leaflets (?#) are 
mildly thickened. There is no
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is mild [1+] mitral regurgitation. The 
pulmonic valve leaflets are not well seen. The tricuspid valve 
leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is high normal. There is no pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Mild mitral regurgitation with normal valve 
morphology. Late microbubbles in the left heart most c/w 
transpulmonic passage. Mildly dilated ascending aorta. The 
rhythm appears to be atrial fibrillation. 

  

 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mrs. ___ is a ___ year old woman with HLD admitted from 
OSH for further evaluation of acute onset left lower facial 
weakness and subtle left hand weakness.

MRI notable for subacute infarcts involving the right frontal, 
temporal and parietal lobes and insular cortex. No hemorrhage 
was seen.

Etiology likely cardioembolic given normal vessels on CTA 
head/neck and newly detected atrial fibrillation detected on 
telemetry this admission. 

The patient was started on apixaban 5 mg BID. Atorvastatin was 
increased from 40 mg QHS to 80 mg QHS. Lastly, due to elevated 
heart rates with new-onset atrial fibrillation, she was started 
on metoprolol 12.5 mg TID while in house. HR remained well 
controlled on this dose and she was thus transitioned to 
metoprolol succinate 37.5 daily prior to discharge. 

TTE was obtained and showed no evidence of PFO and no clear 
valvular pathology.

TRANSTIONAL ISSUES:
===================
# Outpatient ___ as recommended by our physical therapy 
colleagues

# Consider further up-titration of metoprolol to achieve goal HR 
less than 110

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? () Yes (LDL = ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*3 
2.  Metoprolol Succinate XL 37.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 1.5 tablet(s) by mouth Daily Disp 
#*45 Tablet Refills:*3 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*180 
Tablet Refills:*0 
4.Outpatient Physical Therapy
ICD-10-CM Code ___.411- Cerebral infarction due to embolism of 
right middle cerebral artery

Prognosis: Good 
Contact: ___, MD - ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
Atrial fibrillation
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,  

 ___ were hospitalized due to symptoms of left hand weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - Paroxysmal atrial fibrillation (an abnormal heart rhythm 
which we saw on the telemetry)
 - High cholesterol 

 We are changing your medications as follows:  
 - Started a new medication called Apixaban (Eliquis) to thin 
the blood and reduce risk of having further strokes 
 - We increased the atorvastatin from 40mg to 80mg daily
 - We also started a medication called metoprolol to help 
control your fast hear rate and blood pressure

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___